US04769371
A reaction mixture containing 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, ethyl ester (2.62 g, 10.0 mmole), 2-methylpseudourea sulfate (1.72 g, 10.0 mmole), and sodium acetate (1.8 g, 22.0 mmole) in tetrahydrofuran (10 ml) is heated under reflux for 4 hours. The reaction mixture is allowed to cool to room temperature, diluted with ethyl acetate, and filtered. The filtrate is washed with sodium bicarbonate and brine, and then dried over anhydrous magnesium sulfate. Evaporation of the solvent gives a yellow oil which is purified by flash chromatography (5% ethyl acetate in dichloromethane). The resulting foam is crystallized from isopropyl ether-hexanes to provide 1.53 g of 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester as a colorless crystalline product; m.p. 103.5°-105°. TLC (silica gel; ethyl acetate:hexanes, 50:50) Rf =0.31.

reactant | 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, ethyl ester | 10.0 mmole, 2.62 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OCC)C(C)=O | C13H13NO5
reactant | 2-methylpseudourea sulfate | 10.0 mmole, 1.72 g | S(=O)(=O)(O)O.COC(N)=N
reactant | sodium acetate | 22.0 mmole, 1.8 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-dihydro-2-methoxy-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | 1.53 g | COC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C15H17N3O5
